US09085540B2
To a mixture of 5-chloro-6-(2-hydroxypropan-2-yl)-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (11.2 g) and trifluoroacetic acid (110 mL) was added triethylsilane (18.2 mL) under ice-cooling, and followed by stirring under ice-cooling for 10 minutes and at room temperature for 14 hours. The reactant was concentrated, then diluted with chloroform, and washed with a saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-500:10:1) to obtain an orange solid. The obtained solid was heated and washed with ethyl acetate to obtain 5-chloro-6-isopropyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (9.2 g) as an orange solid.

reactant | 5-chloro-6-(2-hydroxypropan-2-yl)-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 11.2 g | ClC=1N=C(C(=NC1C(C)(C)O)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C24H34ClN7O2
reactant | triethylsilane | 18.2 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 110 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-chloro-6-isopropyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 9.2 g | ClC=1N=C(C(=NC1C(C)C)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C24H34ClN7O
